US08557872B2
Step 4: Synthesis of 2-propoxy-4-trifluoromethyl-benzaldehyde
N-Methoxy-N-methyl-2-propoxy-4-trifluoromethyl-benzamide (277 mg) in THF was reacted with 1 M LAH (1 ml) on −50° C. for 1 hr. The reaction mixture was quenched by adding aqueous potassium hydrogen sulfate (5 ml). The mixture was stirred for 30 min. The reaction solvent was removed in vacuo. Water (30 ml) was added to the resulting residue, which was extracted with ethyl acetate (30 ml×3). The combined organic layer was washed with brine (30 ml) and dried over MgSO4 and concentrated in vacuo to yield title compound (232 mg, 100%).

reactant | N-Methoxy-N-methyl-2-propoxy-4-trifluoromethyl-benzamide | 277 mg | CON(C(C1=C(C=C(C=C1)C(F)(F)F)OCCC)=O)C | C13H16F3NO3
reactant | LAH | 1 M, 1 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | C1CCOC1 | C4H8O
product | 2-propoxy-4-trifluoromethyl-benzaldehyde | 232 mg, 100% | C(CC)OC1=C(C=O)C=CC(=C1)C(F)(F)F | C11H11F3O2
